US08026237B2
1-(2-carbamoyl-phenyl)-2,5-dimethyl-1H-pyrrole-3-carboxylic acid (4-methanesulfonyl-phenyl)-amide
In a manner similar to that described for Examples 1B-C, the title compound was prepared from 2-[3-(4-methanesulfonyl-phenylcarbamoyl)-2,5-dimethyl-pyrrol-1-yl]-benzoic acid and ammonia. 1H-NMR (DMSO-d6): δ 9.82 (1H, s), 8.08 (2H, d, J=9.1), 7.90 (2H, d, J=9.1), 7.67 (4H, m), 7.39 (1H, s). 7.34 (1H, m), 6.63 (1H, s), 3.23 (3H, s), 2.27 (3H, s), 2.00 (3H, s); MS (ESI): 412 (MH+).

reactant | 2-[3-(4-methanesulfonyl-phenylcarbamoyl)-2,5-dimethyl-pyrrol-1-yl]-benzoic acid | CS(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(N(C(=C1)C)C1=C(C(=O)O)C=CC=C1)C | C21H20N2O5S
reactant | ammonia | N | H3N
product | 1-(2-carbamoyl-phenyl)-2,5-dimethyl-1H-pyrrole-3-carboxylic acid (4-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(N(C(=C1)C)C1=C(C=CC=C1)C(N)=O)C | C21H21N3O4S
